US05017211
An 80% suspension of 1.75 g of sodium hydride in refined oil is placed in 20 ml of dimethylformamide and 2.5 ml of toluene. 10.2 g of ethyl 4,4,4-trifluoro-3-aminocrotonate in 50 ml of dimethylformamide are added dropwise to the mixture at 5° to 15° C. and the thus-obtained reaction solution is stirred for 1 hour and subsequently cooled to -50° to -60° C. 12.6 g of N,N-diethyl-2-chloro-4-fluoro-5-isocyanatobenzamide in 25 ml of toluene are then added dropwise thereto and the mixture is stirred at this low temperature for a further 2 hours. Thereafter, the reaction solution is left to stand for about 16 hours, whereby it warms to room temperature. The solution is poured into 1 l of water and the aqueous solution is adjusted to a pH value of 5 with the addition of glacial acetic acid. Subsequently, the solution is extracted twice with 1 l of acetic acid, washed once with 1 l of water and once with 500 ml of saturated sodium chloride solution. The organic phases are combined, dried with anhydrous magnesium sulphate and concentrated. The residue obtained is recrystallized from ethyl acetate. In this manner there is obtained N,N-diethyl-2-chloro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzamide, m.p. 253°-254° C.

reactant | sodium hydride | 1.75 g | [H-].[Na+]
reactant | ethyl 4,4,4-trifluoro-3-aminocrotonate | 10.2 g | FC(/C(=C/C(=O)OCC)/N)(F)F | C6H8F3NO2
reactant | N,N-diethyl-2-chloro-4-fluoro-5-isocyanatobenzamide | 12.6 g | C(C)N(C(C1=C(C=C(C(=C1)N=C=O)F)Cl)=O)CC | C12H12ClFN2O2
reactant | water | 1 l | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N-diethyl-2-chloro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzamide | C(C)N(C(C1=C(C=C(C(=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F)Cl)=O)CC | C16H14ClF4N3O3
